US07138520B2
Synthesis of 5-tert-butoxycarbonylpentanoic acid (L4).
Prepared as described for L3 from stirring 5-aminopentanoic acid (3.40 g, 29.1 mmol) in 50% aqueous dioxane with triethylamine (6.0 mL, 43.1 mmol) and BOC-ON (7.91 g, 32.1 mmol) to yield a cream solid (3.10 g, 48.8%).

reactant | 5-aminopentanoic acid | 29.1 mmol, 3.40 g | NCCCCC(=O)O | C5H11NO2
reactant | triethylamine | 43.1 mmol, 6.0 mL | C(C)N(CC)CC | C6H15N
reactant | BOC-ON | 32.1 mmol, 7.91 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-tert-butoxycarbonylpentanoic acid | 3.10 g, 48.8% | C(C)(C)(C)OC(=O)CCCCC(=O)O | C10H18O4
